US07208495B2
methyl 4-(((5-(4-(4-methoxyphenyl)piperazin-1-yl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-3-yl)oxy)methyl)benzoate
Using methyl 4-(bromomethyl)benzoate and 5-(4-(4-methoxyphenyl)piperazin-1-yl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-3-ol obtained in Reference Example 18, the title compound was synthesized in the same manner as in Example 94. Oily material. Yield 76%. 1H-NMR (CDCl3) δ: 1.36 (3H, s), 1.59 (3H, s), 2.09 (3H, s), 2.26 (6H, s), 3.10–3.30 (8H, m), 3.79 (3H, s), 3.91 (3H, s), 4.57 (2H, s), 4.69 (1H, s), 6.86 (2H, d, J=9.2 Hz), 6.97 (2H, d, J=9.2 Hz), 7.39 (2H, d, J=8.0 Hz), 7.99 (2H, d, J=8.0 Hz).

reactant | methyl 4-(bromomethyl)benzoate | BrCC1=CC=C(C(=O)OC)C=C1 | C9H9BrO2
reactant | 5-(4-(4-methoxyphenyl)piperazin-1-yl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-3-ol | COC1=CC=C(C=C1)N1CCN(CC1)C=1C(=C(C2=C(C(C(O2)(C)C)O)C1C)C)C | C24H32N2O3
product | methyl 4-(((5-(4-(4-methoxyphenyl)piperazin-1-yl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-3-yl)oxy)methyl)benzoate | Yield 76% | COC1=CC=C(C=C1)N1CCN(CC1)C=1C(=C(C2=C(C(C(O2)(C)C)OCC2=CC=C(C(=O)OC)C=C2)C1C)C)C | C33H40N2O5
